US07582761B2
(a) 2,3-Dichloro-5-methoxymethyl-pyridine
To a solution of (5,6-dichloro-pyridin-3-yl)-methanol (356 mg, 2.0 mmol, Aldrich) and iodomethane (0.25 mL, 4.0 mmol, Aldrich) in DMF (3.0 mL) was added NaH (120 mg, 3.0 mmol, Aldrich, 60% dispersion in mineral oil) portionwise with stirring at room temperature. The mixture was stirred for 30 min at room temperature, saturated aqueous solution of NH4Cl (10 mL) was added, and the mixture was extracted with EtOAc (2×30 mL). The combined organic phases were washed with water (5 mL) and brine (5 mL), dried over Na2SO4, and filtered. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography, eluting with 20% EtOAc/hexane to give the title compound. MS (ESI, pos. ion) m/z: 192 (M+1).

reactant | (5,6-dichloro-pyridin-3-yl)-methanol | 2.0 mmol, 356 mg | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | iodomethane | 4.0 mmol, 0.25 mL | IC | CH3I
reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 2,3-Dichloro-5-methoxymethyl-pyridine | ClC1=NC=C(C=C1Cl)COC | C7H7Cl2NO
